** sch_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/async_sar/async_nor2.sch
**.subckt async_nor2 A B Y
*.ipin A
*.ipin B
*.opin Y
x1 A_b A async_inverter
x2 B_b B async_inverter
x3 A_b B_b net1 async_nand2
x4 Y net1 async_inverter
**.ends

* expanding   symbol:  sar_adc/blocks/async_sar/async_inverter.sym # of pins=2
** sym_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/async_sar/async_inverter.sym
** sch_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/async_sar/async_inverter.sch
.subckt async_inverter out input
*.ipin input
*.opin out
*.iopin VDD
*.iopin VSS
XM5 out input VDD VDD pfet_03v3 L=0.28u W=0.80u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM6 out input VSS VSS nfet_03v3 L=0.28u W=0.42u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends


* expanding   symbol:  sar_adc/blocks/async_sar/async_nand2.sym # of pins=3
** sym_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/async_sar/async_nand2.sym
** sch_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/async_sar/async_nand2.sch
.subckt async_nand2 input_A input_B output
*.iopin VDD
*.iopin VSS
*.ipin input_A
*.ipin input_B
*.opin output
XM2 net1 input_B VSS VSS nfet_03v3 L=0.28u W=0.50u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM3 output input_A VDD VDD pfet_03v3 L=0.28u W=1.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM1 output input_B VDD VDD pfet_03v3 L=0.28u W=1.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM4 output input_A net1 VSS nfet_03v3 L=0.28u W=0.50u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends

.end
